US04055658
To 5-acetyl-2-hydroxyphenylacetonitrile (3.5 g., 0.02 mole) in 100 ml. of tetrahydrofuran is added trimethylphenylammonium tribromide (7.6 g., 0.02 mole) portionwise over a 15 min. period with stirring. After stirring for an additional 18 hrs. at 25° C., the reaction mixture is concentrated to dryness under reduced pressure. Trituration of residual material with water affords 5.0 g. of brominated product, m.p. 187°-191° C. (dec.). Crystallization of this material from isopropanol affords 5-bromoacetyl-2-hydroxyphenylacetonitrile, m.p. 196°-198° C. (dec.).

reactant | 5-acetyl-2-hydroxyphenylacetonitrile | 0.02 mole, 3.5 g | C(C)(=O)C=1C=CC(=C(C1)CC#N)O | C10H9NO2
reactant | trimethylphenylammonium tribromide | 0.02 mole, 7.6 g | [Br-].[Br-].[Br-].C[N+](C1=CC=CC=C1)(C)C.C[N+](C)(C)C1=CC=CC=C1.C[N+](C)(C)C1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-bromoacetyl-2-hydroxyphenylacetonitrile | BrCC(=O)C=1C=CC(=C(C1)CC#N)O | C10H8BrNO2
